US07511145B2
Preparation of 2-[4-(2-tert-butoxycarbonylamino-ethylamino)-2-phenyl-quinolin-6-yl]-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid (Compound 399)
In this reaction 51 mg (0.1 mmol) of crude 2-(4-chloro-2-phenyl-quinolin-6-yl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester were used. The nucleophile used was (2-amino-ethyl)-carbamic acid tert-butyl ester. Yield: 21 mg.

reactant | 2-(4-chloro-2-phenyl-quinolin-6-yl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester | 0.1 mmol, 51 mg | C(C)OC(=O)C1=CC2=C(N(C(=N2)C=2C=C3C(=CC(=NC3=CC2)C2=CC=CC=C2)Cl)C2CCCCC2)C=C1 | C31H28ClN3O2
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
product | 2-[4-(2-tert-butoxycarbonylamino-ethylamino)-2-phenyl-quinolin-6-yl]-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid | C(C)(C)(C)OC(=O)NCCNC1=CC(=NC2=CC=C(C=C12)C1=NC2=C(N1C1CCCCC1)C=CC(=C2)C(=O)O)C2=CC=CC=C2 | C36H39N5O4
